US07674795B2
Stir, at room temperature under argon, a mixture of 100 mg of (4-formyl-9H-fluoren-9(R,S)-yl)amide of 1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid, prepared as in Example 234, 65 mg of 4-(3-dimethylaminopropoxy)-5-fluorobenzene-1,2-diamine, prepared in the previous stage, and 46 mg of ferric trichloride in 5 ml of anhydrous dimethylformamide. After 48 hours, evaporate the reaction medium to dryness and then purify the residue by flash chromatography on silica gel (20-40 μm), eluting with a mixture of dichloromethane and ammonia as a 7N solution in methanol (95/5 then 9/1 by volume). In this way, we obtain 42 mg of {4-[6-(3-dimethylaminopropoxy)-5-fluoro-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-yl}amide 1H-pyrrolo[2,3-b]-pyridine-4-carboxylic acid, in the form of a yellow solid with the following characteristics:

reactant | (4-formyl-9H-fluoren-9(R,S)-yl)amide | 100 mg | C(=O)C1=CC=CC=2C(C3=CC=CC=C3C12)[NH-]
reactant | 1H-pyrrolo[2,3-b]pyridine-4-carboxylic acid | N1C=CC2=C1N=CC=C2C(=O)O | C8H6N2O2
reactant | 4-(3-dimethylaminopropoxy)-5-fluorobenzene-1,2-diamine | 65 mg | CN(CCCOC=1C=C(C(=CC1F)N)N)C | C11H18FN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | {4-[6-(3-dimethylaminopropoxy)-5-fluoro-1H-benzimidazol-2-yl]-9H-fluoren-9(R,S)-yl}amide 1H-pyrrolo[2,3-b]-pyridine-4-carboxylic acid | 42 mg | N1C=CC2=C1N=CC=C2C(=O)O.CN(CCCOC=2C(=CC1=C(NC(=N1)C1=CC=CC=3C(C4=CC=CC=C4C13)[NH-])C2)F)C | InChI=1S/C25H24FN4O.C8H6N2O2/c1-30(2)11-6-12-31-22-14-21-20(13-19(22)26)28-25(29-21)18-10-5-9-17-23(18)15-7-3-4-8-16(15)24(17)27;11-8(12)6-2-4-10-7-5(6)1-3-9-7/h3-5,7-10,13-14,24,27H,6,11-12H2,1-2H3,(H,28,29);1-4H,(H,9,10)(H,11,12)/q-1;
